US06686439B2
Method in which thiophene-2-thiol is reacted with ε-caprolactone to obtain 6-(2-thienylsulfanyl)hexanoic acid represented by Chemical Formula [5].

reactant | thiophene-2-thiol | S1C(=CC=C1)S | C4H4S2
reactant | ε-caprolactone | C1(CCCCCO1)=O | C6H10O2
product | 6-(2-thienylsulfanyl)hexanoic acid | S1C(=CC=C1)SCCCCCC(=O)O | C10H14O2S2
